US04260779
A solution of 18.2 g of 2,3-dihydro-2-oxo-benzo[b]thiophene in 60 ml of hexamethylphosphoric acid triamide is added dropwise to a suspension of 5.9 g of a 50% strength sodium hydride/mineral oil suspension in 180 ml of hexamethylphosphoric acid triamide whilst cooling, the reaction temperature being kept below 15°. After stirring for one hour at room temperature, 30.4 g of phenyl N-(3-chlorophenyl)-carbamate are added in portions, with external cooling. The mixture is stirred for a further 16 hours at room temperature and poured onto a mixture of 100 ml of 2 N hydrochloric acid and 1,000 g of ice, whereupon an oil separates out; this oil crystallises on leaving to stand for several hours. The crystals are collected and dissolved in 300 ml of diethyl ether. The solution is washed with water and the organic phase is separated off, dried over sodium sulphate and evaporated to dryness. The residue is recrystallised from ether and gives N-(3-chlorophenyl)-2-oxo-2,3-dihydro-3-benzo[b]thiophenecarboxamide with a melting point of 175°-177°.

reactant | 2,3-dihydro-2-oxo-benzo[b]thiophene | 18.2 g | O=C1CC2=C(S1)C=CC=C2 | C8H6OS
reactant | sodium hydride | [H-].[Na+]
reactant | phenyl N-(3-chlorophenyl)-carbamate | 30.4 g | ClC=1C=C(C=CC1)NC(OC1=CC=CC=C1)=O | C13H10ClNO2
reactant | hydrochloric acid | 2 N, 100 ml | Cl | ClH
solvent | hexamethylphosphoric acid triamide | 60 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
solvent | hexamethylphosphoric acid triamide | 180 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | N-(3-chlorophenyl)-2-oxo-2,3-dihydro-3-benzo[b]thiophenecarboxamide | ClC=1C=C(C=CC1)NC(=O)C1C2=C(SC1=O)C=CC=C2 | C15H10ClNO2S
